US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-{[N-(4-methylthiazol-5-ylmethyl)-N-(2-pyridin-3-ylethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde(0.423 g) and acetic acid(0.14 g) were added to a 1,2-dichloroethane solution (10 ml) of N-(4-methylthiazol-5-ylmethyl)-N-(2-pyridin-3-ylethyl)amine(0.36 g). The mixture was stirred at room temperature for 30 minutes. Sodium triacetoxyborohydride(0.48 g) was added, and the mixture was stirred at room temperature overnight. The reaction liquid was condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=100:0→50:50). The purified product was condensed under reduced pressure. The residue was washed with diethyl ether, and dried to give the title compound(0.37 g) as a white powder.

reactant | 1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde | 0.423 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)C=O | C15H18N2O3
reactant | acetic acid | 0.14 g | C(C)(=O)O | C2H4O2
reactant | N-(4-methylthiazol-5-ylmethyl)-N-(2-pyridin-3-ylethyl)amine | 0.36 g | CC=1N=CSC1CNCCC=1C=NC=CC1 | C12H15N3S
reactant | Sodium triacetoxyborohydride | 0.48 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1-ethyl-3,3,5-trimethyl-7-{[N-(4-methylthiazol-5-ylmethyl)-N-(2-pyridin-3-ylethyl)amino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.37 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCC=2C=NC=CC2)CC2=C(N=CS2)C | C27H33N5O2S
